US07538112B2
Step 4: Ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-vinyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate
A mixture of ethyl 8-(benzyloxy)-6-bromo-2,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (0.5 g, 1.19 mmol), tri-n-butyl vinyltin (0.46 mL, 1.42 mmol), and bis(tri-tert-butylphosphine)palladium(0) (0.12 g, 0.24 mmol) in toluene (6 mL) was purged with nitrogen for 2 minutes and sealed. The mixture was heated in a microwave oven at 100° C. for 10 minutes. The reaction mixture was concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with a hexanes and ethyl acetate gradient to provide titled product.

reactant | ethyl 8-(benzyloxy)-6-bromo-2,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 1.19 mmol, 0.5 g | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2C)C)=O)Br)C(=O)OCC | C19H21BrN2O4
reactant | tri-n-butyl vinyltin | 1.42 mmol, 0.46 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.24 mmol, 0.12 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-vinyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2C)C)=O)C=C)C(=O)OCC | C21H24N2O4
